US03989719
By substituting equivalent quantities of 8-trifluoromethyl-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carboxylic acid hydrazide, sodium carbonate and octanoyl chloride in the procedure of Example 1, there is obtained 1-octanoyl-2-(8-trifluoromethyl-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine, which melts at about 97°-100° and is represented by the following structural formula ##SPC4##

reactant | 8-trifluoromethyl-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carboxylic acid hydrazide | FC(C1=CC2=C(OC3=C(CN2C(=O)NN)C=CC=C3)C=C1)(F)F | C15H12F3N3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | octanoyl chloride | C(CCCCCCC)(=O)Cl | C8H15ClO
product | 1-octanoyl-2-(8-trifluoromethyl-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine | C(CCCCCCC)(=O)NNC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)C(F)(F)F | C23H26F3N3O3
